US07189716B2
4-[(S)-2-(3-Bromo-4-methoxy-phenyl)-2-hydroxy-ethylamino]-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one:
The mixture of crude 4-chloro-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one hydrochloric acid salt (80 mg, 0.25 mmol), (S)-2-amino-1-(3-bromo-4-methoxy-phenyl)-ethanol hydrochloric acid salt (105 mg, 0.37 mmol), N-methyl morpholine (0.5 ml, excess), and acetonitrile (15 mL) was heated to 80° C. overnight and cooled to room temperature. After concentration in vacuo, the residue was purified by prep. HPLC to yield the titled compound (79 mg, 66%). 1H NMR (400 MHz, CD3OD) δ 8.13 (s, 1H), 7.85 (s, 1H), 7.69 (narrow d, J=2.0 Hz, 1H), 7.59 (s, 1H), 7.40 (dd, J=2.0, 8.5 Hz, 1H), 7.29 (d, J=7.6 Hz, 1H), 6.96 (d, J=8.5 Hz, 1H), 6.22 (d, J=7.6 Hz, 1H), 4.93 (m, 1H), 3.80 (s, 3H), 3.66 (d, J=6.0 Hz, 2H). LCMS (t=1.39 min), [M+H]+495.

reactant | 4-chloro-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one hydrochloric acid salt | 0.25 mmol, 80 mg | Cl.ClC1=C(C(NC=C1)=O)C1=NC=2C=C3C=NNC3=CC2N1
reactant | (S)-2-amino-1-(3-bromo-4-methoxy-phenyl)-ethanol hydrochloric acid salt | 0.37 mmol, 105 mg | Cl.NC[C@@H](O)C1=CC(=C(C=C1)OC)Br
reactant | N-methyl morpholine | 0.5 ml | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-[(S)-2-(3-Bromo-4-methoxy-phenyl)-2-hydroxy-ethylamino]-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one | 79 mg, 66% | BrC=1C=C(C=CC1OC)[C@@H](CNC1=C(C(NC=C1)=O)C1=NC=2C=C3C=NNC3=CC2N1)O | C22H19BrN6O3
